US05523278
Preparation of Methyl 6-fluoro-α-methyl-1,2-benzisoxazole-3-acetate
Sodium hydride (2.32 g, 57.9 mmol, 60% in oil) is added portionwise to a solution of methyl 6-fluoro-1,2-benzisoxazole-3-acetate (12.07 g, 57.7 mmol) in tetrahydrofuran at -2° C. The mixture is stirred for 30 minutes at 2° C., treated with methyl iodide (10.65 g, 75.0 mmol), stirred at 5° C. for 50 minutes and poured onto ice. The aqueous mixture is extracted with methylene chloride. The organic extracts are combined, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title product as an oil which is identified by NMR spectral analyses.

reactant | Sodium hydride | 57.9 mmol, 2.32 g | [H-].[Na+]
reactant | methyl 6-fluoro-1,2-benzisoxazole-3-acetate | 57.7 mmol, 12.07 g | FC1=CC2=C(C(=NO2)CC(=O)OC)C=C1 | C10H8FNO3
reactant | methyl iodide | 75.0 mmol, 10.65 g | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Methyl 6-fluoro-α-methyl-1,2-benzisoxazole-3-acetate | FC1=CC2=C(C(=NO2)C(C(=O)OC)C)C=C1 | C11H10FNO3
